US07132426B2
Step 4: Preparation of 4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (Compound A74).
In a 500 mL round-bottomed flask equipped with a N2 inlet septum was placed a stir bar, NaH (60% in mineral oil, 1.8 g, 45.6 mmol) and 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (1.53 g, 7.6 mmol). THF (anhydrous, 80 mL) was added to the mixture. The resulting suspension was stirred about 30 min at room temperature. 4-Chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine (2.5 g, 7.6 mmol) was then added in one portion. The mixture was stirred overnight under N2 at room temperature and the resulting slurry turned slightly yellowish. The slurry was added CH2Cl2 and filtered. The filtrate was concentrated under vacuum to give the crude product. Column chromatography purification using 50% EtOAc/Hexane gave Compound A74 as an off-white solid. Exact mass calculated for C22H26FN5O5S: 491.16, found 492.1 (MH+).

reactant | NaH | 45.6 mmol, 1.8 g | [H-].[Na+]
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 7.6 mmol, 1.53 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | 4-Chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 7.6 mmol, 2.5 g | ClC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C12H8ClFN4O2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C22H26FN5O5S
